US09428470B2
D) 2,2′-(3-(5-((4-Carbamimidamidobenzoyl)oxy)-2-(3-oxo-3-((2-sulfoethyl)amino)propyl)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid
A mixture of 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-((4-carbamimidamidobenzoyl)oxy)phenyl)propanoic acid trifluoroacetate (160 mg), taurine (32.5 mg), WSC (50.4 mg), HOBt (43.9 mg), N,N-diisopropylethylamine (0.057 mL), and DMF (5 mL) was stirred overnight at room temperature. The reaction mixture was fractionated by HPLC (C18, mobile phase: water/acetonitrile (system containing 0.1% TFA)). The obtained fraction was concentrated under reduced pressure. To the obtained residue, TFA (4 mL) was added, and the obtained mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure, and then, the pH of the residue was adjusted to about 4 by the addition of an aqueous ammonium acetate solution. The mixture was stirred at room temperature for 2 hours, and then, the obtained solid was collected by filtration and washed with water and acetone to obtain the title compound (40.3 mg).

reactant | 3-(2-(5,5-bis(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazol-3-yl)-4-((4-carbamimidamidobenzoyl)oxy)phenyl)propanoic acid trifluoroacetate | 160 mg | FC(C(=O)O)(F)F.C(C)(C)(C)OC(CC1(CC(=NO1)C1=C(C=CC(=C1)OC(C1=CC=C(C=C1)NC(=N)N)=O)CCC(=O)O)CC(OC(C)(C)C)=O)=O
reactant | taurine | 32.5 mg | NCCS(=O)(=O)O | C2H7NO3S
reactant | WSC | 50.4 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 43.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-diisopropylethylamine | 0.057 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | water acetonitrile | O.C(C)#N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2,2′-(3-(5-((4-Carbamimidamidobenzoyl)oxy)-2-(3-oxo-3-((2-sulfoethyl)amino)propyl)phenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid | 40.3 mg | N(C(=N)N)C1=CC=C(C(=O)OC=2C=CC(=C(C2)C2=NOC(C2)(CC(=O)O)CC(=O)O)CCC(NCCS(=O)(=O)O)=O)C=C1 | C26H29N5O11S
